US04463005
A mixture of 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-(3-hydroxypropoxy)pyrimidine (293 mg.), a 50% w/w dispersion of sodium hydride in oil (72 mg.) and t-butanol (5 ml.) was stirred at 50° for 0.5 hours and then treated with 2,6-dichloropyrazine (165 mg.) and the resulting mixture was stirred at 50° for 18 hours. The mixture was evaporated to dryness and the residue stirred with a mixture of N aqueous hydrochloric acid and ether. The insoluble white solid was collected to give 6-chloro-2-[3-(4-[2-(2,2,2-trifluoroethyl)guanidino]-pyrimid-2-yloxy)propoxy]pyrazine hydrochloride (70 mg.), m.p. 167°-169°.

reactant | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-(3-hydroxypropoxy)pyrimidine | 293 mg | FC(CN=C(NC1=NC(=NC=C1)OCCCO)N)(F)F | C10H14F3N5O2
reactant | sodium hydride | [H-].[Na+]
reactant | 2,6-dichloropyrazine | 165 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
solvent | t-butanol | 5 ml | C(C)(C)(C)O | C4H10O
product | 6-chloro-2-[3-(4-[2-(2,2,2-trifluoroethyl)guanidino]-pyrimid-2-yloxy)propoxy]pyrazine hydrochloride | 70 mg | Cl.ClC1=CN=CC(=N1)OCCCOC1=NC=CC(=N1)NC(=NCC(F)(F)F)N | InChI=1S/C14H15ClF3N7O2.ClH/c15-9-6-20-7-11(23-9)26-4-1-5-27-13-21-3-2-10(25-13)24-12(19)22-8-14(16,17)18;/h2-3,6-7H,1,4-5,8H2,(H3,19,21,22,24,25);1H
